US04625047
To 500 ml of ethanol was added [2,3-dichloro-4-(1-oxo-ethyl)phenoxy]acetic acid (19.73 g, 0.075 mole), 2-fluorobenzaldehyde (13.63 g, 0.11 mole), sodium hydroxide (10 g, 0.25 mole) in 20 ml of water and 50 ml of ethanol with stirring under nitrogen. The reaction mixture was refluxed for a total of 11/2 hours. The reaction mixture was cooled, filtered, the gelatineous solid dispersed in water acidified with hydrochloric acid, stirred, filtered and washed with water. The residue was extracted with methylene chloride and ethyl acetate, washed with water, and concentrated under reduced pressure to give 15.2 g of [2,3-dichloro-4-(3-(2-fluorophenyl)-1-oxo-2-propenyl)phenoxy]acetic acid which melted at 191°-194° C. after purification.

reactant | [2,3-dichloro-4-(1-oxo-ethyl)phenoxy]acetic acid | 0.075 mole, 19.73 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C)=O | C10H8Cl2O4
reactant | 2-fluorobenzaldehyde | 0.11 mole, 13.63 g | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | sodium hydroxide | 0.25 mole, 10 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | [2,3-dichloro-4-(3-(2-fluorophenyl)-1-oxo-2-propenyl)phenoxy]acetic acid | 15.2 g | ClC1=C(OCC(=O)O)C=CC(=C1Cl)C(C=CC1=C(C=CC=C1)F)=O | C17H11Cl2FO4
